US04650799
1,2-Bis[4-(2-thenoyloxymethyl)-3,5-dioxopiperazin-1-yl]ethane
To a mixture of 1,2-bis(4-hydroxymethyl-3,5-dioxopiperazin-1-yl)ethane (6.30 g, 22 m mol) and pyridine (60 ml), thenoyl chloride (6.45 g, 44 m mol) was added gradually at 0° C., and then the mixture was stirred for 4 hours at room temperature. The solvent was removed from the reaction mixture under reduced pressure, and the residue was extracted with chloroform. The extract solution was washed with 10% sulfuric acid solution and successively with water, and was dried over magnesium sulfate. The residue obtained by removing the solvent from the extract solution under reduced pressure was purified by silica gel column chromatography (ethyl acetate, Rf value=0.6) to give the titled compound (8.20 g; yield 70%).

reactant | 1,2-bis(4-hydroxymethyl-3,5-dioxopiperazin-1-yl)ethane | 6.30 g | OCN1C(CN(CC1=O)CCN1CC(N(C(C1)=O)CO)=O)=O | C12H18N4O6
reactant | thenoyl chloride | 6.45 g | C1(=CC=CS1)C(=O)Cl | C5H3ClOS
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | 1,2-Bis[4-(2-thenoyloxymethyl)-3,5-dioxopiperazin-1-yl]ethane | 8.20 g, yield 70% | C1(=CC=CS1)C(=O)OCN1C(CN(CC1=O)CCN1CC(N(C(C1)=O)COC(C1=CC=CS1)=O)=O)=O | C22H22N4O8S2
